US06455528B1
(7) N-((4-Chloromethyl-2,6-dimethylphenyl)methyl)acetamide
To a solution of N-((4-hydroxymethyl-2,6-dimethylphenyl)methyl)acetamide (1.0 g) in dichloromethane (12 ml) was added thionyl chloride (0.88 ml). This mixture was stirred at room temperature for 3 hr. The reaction mixture was poured into water and extracted with ethyl acetate. The extract was washed with aqueous sodium hydrogencarbonate and saturated brine, and dried over anhydrous magnesium sulfate. The solvent was evaporated and the obtained residue was recrystallized from ethyl acetate-isopropyl ether to give the title compound (1.0 g) as white crystals.

reactant | N-((4-hydroxymethyl-2,6-dimethylphenyl)methyl)acetamide | 1.0 g | OCC1=CC(=C(C(=C1)C)CNC(C)=O)C | C12H17NO2
reactant | thionyl chloride | 0.88 ml | S(=O)(Cl)Cl | Cl2OS
reactant | water | O | H2O
solvent | dichloromethane | 12 ml | ClCCl | CH2Cl2
product | N-((4-Chloromethyl-2,6-dimethylphenyl)methyl)acetamide | 1.0 g | ClCC1=CC(=C(C(=C1)C)CNC(C)=O)C | C12H16ClNO
